US05834463
(3aR*,10aS*)-9-(1-naphthylmethyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Using 9-(1-naphthylmethyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, the titled compound was synthesized in substantially the same manner as in Working Example 24 in a yield of 67%, m.p. 126°-128° C. (ethyl acetate-hexane).

reactant | 9-(1-naphthylmethyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | C1(=CC=CC2=CC=CC=C12)CN1C2=C(N=C3C(C1=O)CCC3)C=CC=C2 | C23H20N2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (3aR*,10aS*)-9-(1-naphthylmethyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | yield of 67% | C1(=CC=CC2=CC=CC=C12)CN1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC=C2 | C23H22N2O
